US06018016
A solution of PPh(NHEt)2 (0.301 g, 1.5 mmol) in CH2CH2 (20 cm3) was added to PPh2Cl (0.677 g, 3.0 mmol) dissolved in CH2Cl2 (5 cm3) containing NEt3 (0.466 g, 4.6 mmol) and stirred for two hours. The solvent was removed in vacuo affording an off white solid. The solid was washed with 3×20 cm3 aliquots of diethylether, the washings combined and the solvent then removed in vacuo yielding a white solid characterised as Ph2PN(Et)P(Ph)N(Et)PPh2 (0.54 g 1.3 mmol) 31P [H] NMR (CD2Cl2)=53.5 [d, PPh2, 2P, J (PP) 25]. 105.1 [t, PPh, J(PP) 25 Hz] ppm.

reactant | PPh(NHEt)2 | 1.5 mmol, 0.301 g | P(C1=CC=CC=C1)(NCC)NCC | C10H17N2P
reactant | PPh2Cl | 3.0 mmol, 0.677 g | P(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C12H10ClP
reactant | NEt3 | 4.6 mmol, 0.466 g | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 5 cm3 | C(Cl)Cl | CH2Cl2
product | Ph2PN(Et)P(Ph)N(Et)PPh2 | 1.3 mmol, 0.54 g | P(C1=CC=CC=C1)(C1=CC=CC=C1)N(CC)P(C1=CC=CC=C1)N(CC)P(C1=CC=CC=C1)C1=CC=CC=C1 | C34H35N2P3
